data/mechanism_extracts/OrgChemFront/10.1039_d2qo01111e.json
{"doi": "10.1039_d2qo01111e", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical β-chlorosulfoxidation of alkenes using thiols and HCl as limiting reagents with water as the oxygen source", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of thiophenol generates a thiyl radical; subsequent anodic oxidations convert the β-thioether radical to an episulfonium cation and then oxidize the sulfide to a sulfoxide; cathode reduces protons to H2", "key_intermediates": [{"name": "thiyl radical (ArS•)", "smiles": null, "role": "reactive"}, {"name": "diaryl disulfide (ArSSAr)", "smiles": null, "role": "resting_state"}, {"name": "disulfide radical cation / ArS+ equivalent", "smiles": null, "role": "transient"}, {"name": "β-thioether carbon-centered radical (E)", "smiles": null, "role": "reactive"}, {"name": "episulfonium ion (F)", "smiles": null, "role": "reactive"}, {"name": "β-chloro sulfide (G)", "smiles": null, "role": "reactive"}, {"name": "β-chloro sulfide radical cation (H)", "smiles": null, "role": "transient"}, {"name": "β-chlorosulfoxide product (I)", "smiles": null, "role": "reactive"}, {"name": "β-hydroxyl sulfide (Int6)", "smiles": null, "role": "off_pathway"}, {"name": "β-hydroxyl sulfoxide (47)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes ArSH to a thiyl radical (in equilibrium with ArSSAr/disulfide radical cation); the thiyl radical adds to the alkene to give a β-thio C-radical, which is further oxidized at the anode to an episulfonium cation that is captured by chloride to give a β-chloro sulfide; a second anodic SET on sulfur followed by water attack and deprotonation delivers the β-chlorosulfoxide, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "H2 18O isotope labeling", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Sulfoxide O is 95:5 18O/16O, confirming water as the oxygen source"}, {"name": "vinylcyclopropane (radical clock, 56)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened product 57 obtained (10%, 2:1 dr), consistent with a thiyl/carbon-radical intermediate"}, {"name": "β-hydroxyl sulfoxide 47", "smiles": null, "purpose": "intermediate_trap", "observation": "Submission of 47 under standard conditions gave only trace 3, ruling out β-hydroxy sulfoxide as a competent intermediate"}, {"name": "sampling/time-course of electrolysis", "smiles": null, "purpose": "other", "observation": "Disulfide (Int1), β-functionalized sulfides (Int2–5) and β-hydroxy sulfoxide (Int6) accumulate in the first hour; β-chlorosulfoxide 8 forms only afterward, supporting β-functionalized organosulfur species as on-cycle intermediates"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "intermediate_trap_other", "stoichiometric_intermediate", "kinetic_order", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "A parallel path b is proposed where the alkene is first oxidized to a radical cation that is then trapped by ArS•/ArSSAr to converge on the episulfonium ion F. The β-hydroxy sulfoxide pathway (via Int6/47) is explicitly excluded by the control experiment, so chloride capture of the episulfonium ion precedes S-oxidation."}
